US04463002
In the same manner as Example 8, 7-[2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-cephem-4-carboxylic acid (syn-isomer) was reacted with iodomethyl 2-ethylbutyrate in the presence of triethylamine to give 2-ethylbutyryloxymethyl 7-[2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-cephem-4-carboxylate (syn-isomer).

reactant | 7-[2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-cephem-4-carboxylic acid | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O)=NOC | C13H13N5O5S2
reactant | iodomethyl 2-ethylbutyrate | C(C)C(C(=O)OCI)CC | C7H13IO2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 2-ethylbutyryloxymethyl 7-[2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-cephem-4-carboxylate | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)OCOC(C(CC)CC)=O)C1=O)=NOC | C20H25N5O7S2
